US05866712
Preparation of Allyl 3-t-Butylperoxy-1,3-dimethylbutyl Oxalate (I-4)
A second preparation of I-4 was carried out. A 100 mL 3-necked flask equipped with a magnetic stirring bar, a nitrogen inlet line, a thermometer and an addition funnel with a side arm was charged with 25.9 g(200 mmoles) of oxalyl chloride, dry nitrogen gas was bubbled through the oxalyl chloride and the flask contents were cooled to 0° C. Then 20.0 g (97.3 mmoles) of 92.6% 3-t-butylperoxy-1,3-dimethylbutanol was added dropwise at such a rate that the temperature remained below 15° C. The addition took 30 minutes to complete. The reaction mass was then stirred for 60 minutes at 15° C. after which 50 mL of dry ethyl acetate was added. The contents were then transferred to a one-necked flask and the solvent and excess oxalyl chloride were then removed using a rotary evaporator. Obtained was 29.3 g of a light yellow oil. The oil was cooled to 10° C. and to it was added 6.0 g (103.3 mmoles) of allyl alcohol over a period of 15 minutes while a vigorous stream of dry nitrogen was swept through the reaction mass. The temperature was held below 20° C. during the addition of allyl alcohol. The reaction mixture was then stirred for 60 minutes at 15°-20° C. after which it was stripped on a rotary evaporator. Obtained was 31.7 g (>100% of theory, uncorrected) of a light yellow liquid. GC showed a single large peak, 93% by area. An IR spectrum of the product showed carbonyl bands at 1770 cm-1 and 1750 cm-1 and a peroxide (--OO--) band at 875 cm-1.

reactant | oxalyl chloride | 200 mmoles, 25.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-t-butylperoxy-1,3-dimethylbutanol | 97.3 mmoles, 20.0 g | C(C)(C)(C)OOC(CC(O)C)(C)C | C10H22O3
reactant | allyl alcohol | 103.3 mmoles, 6.0 g | C(C=C)O | C3H6O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | Allyl 3-t-Butylperoxy-1,3-dimethylbutyl Oxalate | C(C(=O)OC(CC(C)(C)OOC(C)(C)C)C)(=O)OCC=C | C15H26O6
